US07381738B2
Part C. Preparation of 4-hydroxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester
A solution of 4-acetoxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]-pyrrole-2-carboxylic acid tert-butyl ester in tetrahydrofuran is treated with aqueous lithium hydroxide and the mixture is stirred at room temperature until the reaction is complete. The reaction mixture is concentrated under vacuum yielding an aqueous residue. The aqueous residue is extracted with ethyl acetate, and the organic phases are dried over sodium sulfate and concentrated under vacuum yielding a residue. The residue is purified by flash column chromatography providing the title product.

reactant | 4-acetoxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]-pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)COC(C)=O | C25H32F3N3O6
reactant | lithium hydroxide | [OH-].[Li+]
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-hydroxymethyl-5-[2-(3-trifluoromethylbenzoylamino)acetylamino]octahydrocyclopenta[c]pyrrole-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC2C(C1)C(C(C2)NC(CNC(C2=CC(=CC=C2)C(F)(F)F)=O)=O)CO | C23H30F3N3O5
